US05108556
Thus, for example, 0.54 g of 4,8,12-triazapentadecane trihydrochloride was refluxed 4.5 hours with 6 mL of trifluoroacetic anhydride. The resulting mixture was cooled and trifluoroacetic acid and anhydride were removed under reduced pressure. The residue was distilled bulb-to-bulb (evaporative distillation) at 165° C./0.13 Torr giving 0.83 g (92% yield) of 4,8,12-tris(trifluoroacetyl)-4,8,12-triazapentadecane, a clear colorless oil.

reactant | 4,8,12-triazapentadecane trihydrochloride | 0.54 g | Cl.Cl.Cl.CCCNCCCNCCCNCCC
reactant | trifluoroacetic anhydride | 6 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4,8,12-tris(trifluoroacetyl)-4,8,12-triazapentadecane | 0.83 g, 92% yield | FC(C(=O)N(CCC)CCCN(CCCN(CCC)C(C(F)(F)F)=O)C(C(F)(F)F)=O)(F)F | C18H26F9N3O3
